US07745477B2
N-(4-tert-butyl-benzyl)-3-chloro-5-ethyl-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide
285 mg of 3-bromo-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide (0.6 mmol, Example B177), 44 mg of ethylboronic acid (1.75 mmol), 371 mg of tri-potassium phosphate (0.05 mmol), 14 mg of tricyclohexylphosphine and 6 mg of palladium acetate were suspended in 2.3 ml toluene and 0.1 ml water and stirred at 100° C. for 3.5 h under nitrogen. The reaction mixture was then cooled down to RT, diluted with 4 ml water and extracted twice with ethylacetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered off and concentrated under vacuo. The resulting residue was purified by flash column chromatography (Heptane/AcOEt:95/5) to yield 192 mg of a yellow solid. MS (ISP) 520.3 (M+H)+.

reactant | 3-bromo-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide | 0.6 mmol, 285 mg | BrC=1C=C(C(=O)N(CCC2=CC(=CC(=C2)C(F)(F)F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C1)Cl | C27H25BrClF4NO
reactant | ethylboronic acid | 1.75 mmol, 44 mg | C(C)B(O)O | C2H7BO2
reactant | tri-potassium phosphate | 0.05 mmol, 371 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 14 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 2.3 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 ml | O | H2O
catalyst | palladium acetate | 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.1 ml | O | H2O
product | N-(4-tert-butyl-benzyl)-3-chloro-5-ethyl-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide | 192 mg | C(C)(C)(C)C1=CC=C(CN(C(C2=CC(=CC(=C2)CC)Cl)=O)CCC2=CC(=CC(=C2)C(F)(F)F)F)C=C1 | C29H30ClF4NO
